US05286742
Preparation of 4-Cyanopyrrole-2-thiocarboxamide
A mixture of 4-cyanopyrrole-2-carboxamide (1.35 g, 10.0 mmol) and 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (4.0 g, 9.9 mmol) in toluene is heated at 100° C. for 41/2 hours, diluted with tetrahydrofuran and heated at reflux for 20 minutes. The reaction mixture is then cooled and concentrated in vacuo to obtain a residue. Chromatography of the residue using silica gel and a 4:1 hexanes/ethyl acetate mixture gives the title product as a yellow solid (0.9 g, mp 253° C. dec.).

reactant | 4-cyanopyrrole-2-carboxamide | 10.0 mmol, 1.35 g | C(#N)C=1C=C(NC1)C(=O)N | C6H5N3O
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 9.9 mmol, 4.0 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Cyanopyrrole-2-thiocarboxamide | 0.9 g | C(#N)C=1C=C(NC1)C(N)=S | C6H5N3S
